### PR TITLE
feat: hash map iterators

### PR DESCRIPTION
**Pull request by datokrat**
This PR provides iterators on hash maps.

### CODE REVIEW

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ✅ Mathlib branch [lean-pr-testing-10761](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-10761) has successfully built against this PR. (2025-10-13 16:22:07) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/18470311875)
- ✅ Mathlib branch [lean-pr-testing-10761](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-10761) has successfully built against this PR. (2025-10-14 12:37:38) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/18495033500)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase f58999a7a63c3a8f2f481d996bbdb44987abe99a --onto 14ff08db6f651775ead432d367b6b083878bb0f9`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-10-14 13:42:27)

File: src/Std/Data/DHashMap/Internal/AssocList/Iterator.lean [hunk 1]
```diff
@@ -0,0 +1,80 @@
...
+    FinitenessRelation (AssocListIterator α β) Id where
+  rel := InvImage WellFoundedRelation.rel (AssocListIterator.l ∘ IterM.internalState)
+  wf := InvImage.wf _ WellFoundedRelation.wf
+  subrelation {it it'} h := by
+    simp_wf
+    obtain ⟨step, h, h'⟩ := h
+    cases step <;> simp_all [IterStep.successor, IterM.IsPlausibleStep, Iterator.IsPlausibleStep]
+
+public instance : Finite (AssocListIterator α β) Id :=
+  by exact Finite.of_finitenessRelation AssocListIterator.finitenessRelation
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/AssocList/Iterator.lean]: scnr
```suggestion
public instance : Finite (AssocListIterator α β) Id := by
  exact Finite.of_finitenessRelation AssocListIterator.finitenessRelation
```

File: src/Std/Data/DHashMap/Iterator.lean [hunk 2]
```diff
@@ -0,0 +1,80 @@
...
+Returns a finite iterator over the entries of a dependent hash map.
+The iterator yields the elements of the map in order and then terminates.
+
+**Termination properties:**
+
+* `Finite` instance: always
+* `Productive` instance: always
+-/
+@[inline]
+public def entriesIter {α : Type u} {β : α → Type v} (m : Raw α β) :=
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Iterator.lean]: I would be happy for this to just be called `iter`.

File: src/Std/Data/DHashMap/Iterator.lean [hunk 3]
```diff
@@ -0,0 +1,80 @@
...
+The key and value types must live in the same universe.
+
+**Termination properties:**
+
+* `Finite` instance: always
+* `Productive` instance: always
+-/
+@[inline]
+public def keysIter {α : Type u} {β : α → Type u} (m : Raw α β) :=
+  (m.entriesIter.map fun e => e.1)
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Iterator.lean]: Just to make it extra clear?
```suggestion
  (m.entriesIter.map fun e => e.1 : Iter α)
```

File: src/Std/Data/DHashMap/IteratorLemmas.lean [hunk 4]
```diff
@@ -0,0 +1,168 @@
...
+end Std.DHashMap.Internal.AssocList
+
+namespace Std.DHashMap.Raw
+open Std.Iterators
+
+section EntriesIter
+
+variable {α : Type u} {β : α → Type v} {m : Raw α β}
+
+public theorem toList_entriesIter :
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/IteratorLemmas.lean]: Shouldn't all of these lemmas be `@[simp]`?
